US08487109B2
4-Cyclohex-1-enylethynyl-benzaldehyde
This product was prepared from toluene-4-sulfonic acid 4-formyl-phenyl ester and 1-ethynyl-cyclohexene following the general procedure for the Sonogashira cross-coupling process described above. Chromatography eluent: heptane/DCM 1:1; yield (71 mg, 68%); 1H NMR δ (CDCl3): 9.99 (s, 1H), 8.02 (d, J=8.51 Hz, 2H), 7.52 (d, J=8.60 Hz, 2H), 6.31-6.27 (m, 1H), 2.14-2.22 (m, 4H), 1.58-1.73 (m, 4H); LCMS m/z: 210.

reactant | toluene-4-sulfonic acid 4-formyl-phenyl ester | C(=O)C1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C14H12O4S
reactant | 1-ethynyl-cyclohexene | C(#C)C1=CCCCC1 | C8H10
solvent | heptane DCM | CCCCCCC.C(Cl)Cl
product | 4-Cyclohex-1-enylethynyl-benzaldehyde | C1(=CCCCC1)C#CC1=CC=C(C=O)C=C1 | C15H14O
